US07265120B2
A solution of 6-[5-amino-6-(methylsulfonyl)-3-phenyl-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone (200 mg) in a mixture of 1N aq. NaOH (1 ml) and dioxane (2 ml) was refluxed for 6 hours. After cooling, the mixture was adjusted to pH 4 with 1N HCl to give a precipitate. The precipitate was collected by filtration and crystallized from DMSO and water to give 6-(5-amino-6-oxo-3-phenyl-1,6-dihydro-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone (123 mg).

reactant | 6-[5-amino-6-(methylsulfonyl)-3-phenyl-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone | 200 mg | NC=1N=C(C(=NC1S(=O)(=O)C)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C18H19N5O3S
reactant | HCl | 1N | Cl | ClH
reactant | NaOH | 1N, 1 ml | [OH-].[Na+]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 6-(5-amino-6-oxo-3-phenyl-1,6-dihydro-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 123 mg | NC1=NC(=C(NC1=O)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C17H17N5O2
